US05962458
Diethyl azodicarboxylate (315 μl, 2 mmol) was added dropwise to a solution of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (319.5 mg, 1 mmol), (prepared as described for the starting material in Example 24), triphenylphosphine (524 mg, 2 mmol) and 2-(4-pyridyl)ethanol (160 mg, 1.25 mmol), (Zhur. Obshchei. Khim. 1958, 28, 103-110), in methylene chloride (7 ml). The mixture was stirred for 1 hour at ambient temperature and the solvent was removed by evaporation. The residue was triturated with ether, the solid collected by filtration and purified by column chromatography eluting with methylene chloride/acetonitrile/methanol (85/10/5). The purified solid product was dissolved in a mixture of methylene chloride (50 ml) and methanol (50 ml) and 5M hydrochloric acid in isopropanol (0.5 ml) was added. After diluting with isopropanol (20 ml), the mixture was concentrated by evaporation. The precipitated solid was collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(4-pyridyl)ethoxy)quinazoline hydrochloride (125 mg, 25%).

reactant | Diethyl azodicarboxylate | 2 mmol, 315 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1 mmol, 319.5 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 2 mmol, 524 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4-pyridyl)ethanol | 1.25 mmol, 160 mg | N1=CC=C(C=C1)CCO | C7H9NO
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(4-pyridyl)ethoxy)quinazoline hydrochloride | 125 mg, 25% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCC2=CC=NC=C2)C=C1)F | InChI=1S/C22H18ClFN4O2.ClH/c1-29-20-11-16-19(12-21(20)30-9-6-14-4-7-25-8-5-14)26-13-27-22(16)28-18-3-2-15(23)10-17(18)24;/h2-5,7-8,10-13H,6,9H2,1H3,(H,26,27,28);1H
